US04814344
3-(Dimethylamino)-1-(2-methyl-1H-indol-3-yl)-1-propanone
A solution of dimethylamine in IMS (33% w/v; 8 ml) was added to 3-chloro-1-(2-methyl-1H-indol-3-yl)-1-propanone (404 mg) and the mixture was left for 30 min. when a solid was precipitated. The mixture was refrigerated for 15 min. and the solid was filtered off and dried to give the title compound (207 mg). The mother liquors were evaporated to leave a solid which was partly dissolved in ethyl acetate (20 ml). Water (20 ml) was added and the solid remaining out of solution dissolved. The organic phase was extracted with 2M hydrochloric acid (3×20 ml) and the combined acidic extracts were brought to pH 10 with 0.88 ammonia solution. The mixture was extracted with ethyl acetate (3×25 ml), and the combined, dried organic extracts were evaporated to leave a solid which was crystallised from ethanol. The crystals were combined to give the title compound (386 mg), m.p. 172°-175°.

reactant | dimethylamine | CNC | C2H7N
reactant | 3-chloro-1-(2-methyl-1H-indol-3-yl)-1-propanone | 404 mg | ClCCC(=O)C1=C(NC2=CC=CC=C12)C | C12H12ClNO
product | 3-(Dimethylamino)-1-(2-methyl-1H-indol-3-yl)-1-propanone | 207 mg | CN(CCC(=O)C1=C(NC2=CC=CC=C12)C)C | C14H18N2O
